US06376672B1
In analogy to the procedure described in example 1) (g) the (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-[4-[3-(5-fluoro-2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl in methanol to yield the (R)-3-[(3S,4R,5R)-4-[4-[3-(5-fluoro-2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy]-piperidin-3-yloxy]-propane-1,2-diol as amorphous solid; MS: 650 (M+H)+.

reactant | (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-[4-[3-(5-fluoro-2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOCC1=C(C=CC(=C1)F)OC)OC[C@@H]1OC(OC1)(C)C | C45H56FNO10
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | (R)-3-[(3S,4R,5R)-4-[4-[3-(5-fluoro-2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy]-piperidin-3-yloxy]-propane-1,2-diol | FC=1C=CC(=C(COCCCOC2=CC=C(C=C2)[C@H]2[C@@H](CNC[C@@H]2OCC2=CC3=CC=CC=C3C(=C2)OC)OC[C@@H](CO)O)C1)OC | C37H44FNO8
